US07410966B2
a) 5-(6-Chloro-7-methyl-3H-imidazo[4,5-b]pyridin-2-yl)-2-nitrophenol
5-Chloro-4-methylpyridine-2,3-diamine (prepared by a method similar to Example 206a) (2.0 g, 12.7 mmol) was dissolved in DMF (40 ml) and heated to 100° C. 3-Hydroxy-4-nitrobenzaldehyde (2.10 g, 12.7 mmol) dissolved in DMF (10 ml) was added slowly (10 min). Air was bubbled through the reaction mixture. After 16 h, the DMF was evaporated off and the residue was purified by column chromatography (EtOAc/methanol, 10:1) giving the title compound (0.7 g, 18%).

reactant | 5-Chloro-4-methylpyridine-2,3-diamine | ClC=1C(=C(C(=NC1)N)N)C | C6H8ClN3
reactant | 3-Hydroxy-4-nitrobenzaldehyde | 12.7 mmol, 2.10 g | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(6-Chloro-7-methyl-3H-imidazo[4,5-b]pyridin-2-yl)-2-nitrophenol | 0.7 g, 18% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=CC(=C(C2)O)[N+](=O)[O-])C | C13H9ClN4O3
